US07560558B2
3-Hydroxy-2-methyl-quinoline (0.46 g) was suspended in xylene (30 ml), zelene dioxide (2.55 g) was added to the suspension, and the mixture was stirred at 130° C. for 30 min. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give 3-hydroxyquinoline-2-carbaldehyde (124 mg, yield 25%).

reactant | 3-Hydroxy-2-methyl-quinoline | 0.46 g | OC=1C(=NC2=CC=CC=C2C1)C | C10H9NO
reactant | Water | O | H2O
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-hydroxyquinoline-2-carbaldehyde | 124 mg, yield 25% | OC=1C(=NC2=CC=CC=C2C1)C=O | C10H7NO2
